US07572820B2
A. 3-(Chloromethyl)-5-[2-fluoro-5-(trifluoromethyl)phenyl]-1,2,4-oxadiazole
To a solution of 2-chloro-N-hydroxyethanimidamide (2.4 g, 22.1 mmol) and triethylamine (3.7 ml, 26.5 mmol) in dry toluene (35 mL) was added 2-fluoro-5-(trifluoromethyl)benzoyl chloride (5 g, 22.1 mmol) at 0° C. The mixture was stirred at room temperature for 1 h and then at 100° C. overnight. The resulting solid was filtered and the filtrate was then concentrated in vacuo. The residue was purified by radial chromatography (0-30% EtOAc-hexanes gradient) to afford the title compound (1.2 g, 19% yield): MS (ES) m/z 281 (M+1) and 283 (M+1, isotope).

reactant | 2-chloro-N-hydroxyethanimidamide | 22.1 mmol, 2.4 g | ClCC(NO)=N | C2H5ClN2O
reactant | triethylamine | 26.5 mmol, 3.7 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-5-(trifluoromethyl)benzoyl chloride | 22.1 mmol, 5 g | FC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3ClF4O
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Chloromethyl)-5-[2-fluoro-5-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | 1.2 g, 19% yield | ClCC1=NOC(=N1)C1=C(C=CC(=C1)C(F)(F)F)F | C10H5ClF4N2O
